US09376445B2
(5S)-7-Methyl-2-[4-methyl-6-[4-(trifluoromethyl)phenyl]pyrimidin-2-yl]-1,7-diazaspiro[4.4]non-1-en-6-one (which may be prepared as described in Description 9) (78.34 g, 201.7 mmol) was added to a 5 L three necked round bottomed flask containing an overhead stirrer, 500 ml pressure-equalising dropping funnel with a nitrogen inlet and thermometer. To this was added DCM (1000 mL) and the stirred mixture cooled to approx. −70° C. The dropping funnel was charged with a pre-sonicated solution of borane tert-butylamine (19.3 g, 221.87 mmol) in DCM (200 mL). The borane complex was added slowly maintaining the temperature below −70° C. over approx. 30 minutes. After addition the reaction was stirred at below −70° C. for 90 minutes. The dropping funnel was charged with 6M HCl (400 ml) and this was added dropwise over approx. 15 minutes. The reaction temperature warmed to −50° C. during the addition. After addition was complete the acetone/dry-ice bath was removed and the reaction mixture warmed to room temperature then stirred for a further 30 minutes. In a separate 10 L flask was added sodium carbonate (200 g) and water (1 L). To this flask was added an overhead stirrer. The reaction mixture was carefully added (note: gas evolution) to the sodium carbonate solution and stirring was maintained until gas evolution ceased. The mixture was transferred to a 6 L separating funnel and the phases were separated. The aqueous layer was washed with DCM (2×200 ml) and the combined organics were dried (MgSO4). The solvent was evaporated to afford 7-methyl-2-[4-methyl-6-[4-(trifluoromethyl)-phenyl]pyrimidin-2-yl]-1,7-diazaspiro[4.4]nonan-6-one as an amber oil (77.8 g), a 96:4 ratio of (2R,5S) and (2S,5S) isomers.

reactant | (5S)-7-Methyl-2-[4-methyl-6-[4-(trifluoromethyl)phenyl]pyrimidin-2-yl]-1,7-diazaspiro[4.4]non-1-en-6-one | 201.7 mmol, 78.34 g | CN1C([C@]2(CCC(=N2)C2=NC(=CC(=N2)C)C2=CC=C(C=C2)C(F)(F)F)CC1)=O | C20H19F3N4O
reactant | borane tert-butylamine | 221.87 mmol, 19.3 g | C(C)(C)(C)N.B
reactant | HCl | 6M, 400 ml | Cl | ClH
reactant | acetone dry-ice | CC(=O)C.C(=O)=O
solvent | DCM | 200 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 1000 mL | C(Cl)Cl | CH2Cl2
product | 7-methyl-2-[4-methyl-6-[4-(trifluoromethyl)-phenyl]pyrimidin-2-yl]-1,7-diazaspiro[4.4]nonan-6-one | 77.8 g | CN1C(C2(CCC(N2)C2=NC(=CC(=N2)C)C2=CC=C(C=C2)C(F)(F)F)CC1)=O | C20H21F3N4O
